US05679683
A suspension of 2 aminoindole-3-carboxylic acid ethyl ester (2.04 g, 10.0 mmol), cyanamide (534 mg, 12.7 mmol), and concentrated hydrochloric acid (1 mL) in dioxane (91 mL), are heated under reflux for 48 hr. After the reaction mixture has cooled to 25 C. it is filtered and the solids washed well with dry diethyl ether, and then air dried to give 2-guanidinoindole-3-carboxylic acid ethyl ester hydrochloride (1.08g, 38%) 2-guanidinoindole-3-carboxylic acid ethyl ester hydrochloride as an off-white solid, mp>250 C.

reactant | aminoindole-3-carboxylic acid ethyl ester | 10.0 mmol, 2.04 g | C(C)OC(=O)C1=C(NC2=CC=CC=C12)N | C11H12N2O2
reactant | cyanamide | 12.7 mmol, 534 mg | N#CN | CH2N2
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | dioxane | 91 mL | O1CCOCC1 | C4H8O2
product | 2-guanidinoindole-3-carboxylic acid ethyl ester hydrochloride | 1.08g, 38% | Cl.C(C)OC(=O)C1=C(NC2=CC=CC=C12)NC(=N)N | InChI=1S/C12H14N4O2.ClH/c1-2-18-11(17)9-7-5-3-4-6-8(7)15-10(9)16-12(13)14;/h3-6,15H,2H2,1H3,(H4,13,14,16);1H
